US07759373B2
A mixture of methyl 6-(dimethylamino)methylnicotinate (256 mg) and 10N hydrochloric acid was refluxed overnight. After cooling, the reaction mixture was concentrated under reduced pressure to obtain 6-(dimethylamino)methylnicotinic acid hydrochloride (329 mg) as colorless powder.

reactant | methyl 6-(dimethylamino)methylnicotinate | 256 mg | CN(C)CC1=NC=C(C(=O)OC)C=C1 | C10H14N2O2
reactant | hydrochloric acid | 10N | Cl | ClH
product | 6-(dimethylamino)methylnicotinic acid hydrochloride | 329 mg | Cl.CN(C)CC1=NC=C(C(=O)O)C=C1 | InChI=1S/C9H12N2O2.ClH/c1-11(2)6-8-4-3-7(5-10-8)9(12)13;/h3-5H,6H2,1-2H3,(H,12,13);1H
